US08420816B2
Step A: 3-Iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde
To a solution of 1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde (2.0 g, 13.7 mmol) in EtOH (40 mL) was added iodine (4.17 g, 16.4 mmol), sodium iodide (2.46 g, 16.4 mmol), and aqueous NaOH (1N, 16 mL). After stirring for 4 h at room temperature, the reaction mixture was diluted with water (200 mL), and the orange precipitate was collected by filtration and dried under vacuum. The solid was dissolved in DMF (20 mL); sodium hydride (60%, 660 mg, 16.4 mmol) was slowly added, and after stirring the deep red solution at room temperature for 30 min, tosyl chloride (2.87 g, 15.1 mmol) was added. The reaction mixture was stirred for an additional 2 h at room temperature, and was then diluted with EtOAc and quenched with water. The organics were separated, washed with aqueous NaHSO3 (0.1 N) and brine, dried over MgSO4, and concentrated in vacuo. Purification by silica gel chromatography (3:1:1 hexane/DCM/EtOAc) gave the title compound as a yellow solid (3.48 g, 60%). 1H NMR (500 MHz, DMSO-d6) δ 2.33 (s, 3H), 7.43 (d, J=8.5 Hz, 2H), 7.63 (d, J=5.0 Hz, 1H), 8.03 (d, J=8.5 Hz, 2H), 8.39 (s, 1H), 8.60 (d, J=5.0 Hz, 1H), 11.31 (s, 1H). [M+H] calc'd for C15H11IN2O3S, 427; found, 427.

reactant | 1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde | 13.7 mmol, 2.0 g | N1C=CC2=C1N=CC=C2C=O | C8H6N2O
reactant | iodine | 16.4 mmol, 4.17 g | II | I2
reactant | sodium iodide | 16.4 mmol, 2.46 g | [I-].[Na+]
reactant | NaOH | 1N, 16 mL | [OH-].[Na+]
reactant | sodium hydride | 16.4 mmol, 660 mg | [H-].[Na+]
reactant | tosyl chloride | 15.1 mmol, 2.87 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | EtOH | 40 mL | CCO | C2H6O
solvent | water | 200 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde | 3.48 g, 60% | IC1=CN(C=2N=CC=C(C21)C=O)S(=O)(=O)C2=CC=C(C)C=C2 | C15H11IN2O3S
